data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-C_2-c1ccccc1_3-C_4-CC(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(C)(c1ccccc1)","C(C)(CC(C)C)O"],"products_smiles": ["OC(C)(c1ccccc1).C(C)(=O)CC(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C)(CC(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(CC(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C)(CC(C)C)[O][Al-](OC(C)C)([O+]=C(C)(c1ccccc1))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(C)(c1ccccc1).C(C)(=O)CC(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-061_1-CC_2-C","level": "easy","name": "Dieckmann Condensation","reactants_smiles": ["O(CC)C(=O)CCCC(=O)O(C)"],"products_smiles": ["O(CC)C(=O)C1CCCC1=O"],"conditions": "Base","mechnism_text_description": "The Dieckmann condensation is the intramolecular reaction of diesters using strong bases yielding cyclic β-keto esters. It is the intramolecular variant of the Claisen condensation.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O(CC)C(=O)[CH-]CCCC(=O)O(C)","step_weight": 0,"rationale": "Strong base abstracts the acidic α-proton due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O(CC)C(=O)C1C([O-])(O(C))CCC1","step_weight": 0,"rationale": "The nucleophilic enolate attacks the electrophilic ester carbonyl intramolecularly, favored by proximity and formation of a stable five-membered ring."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O(CC)C(=O)C1CCCC1=O","step_weight": 0,"rationale": "Elimination of the alkoxide occurs because it is a good leaving group, restoring the carbonyl and yielding the conjugated β-keto ester."}],"description": "Under basic conditions, the α-proton of one ester is deprotonated to form an enolate, which intramolecularly attacks the carbonyl of the second ester, forming a cyclic intermediate. Elimination of the alkoxide yields the stable β-keto ester product."}
